data/oMe_Silver.jsonl
{"reaction_id": "NR-101_1-c3ccc(OC)cc3_2-C4CCCCC4","level": "medium","name": "Hanessian-Hullar Reaction","reactants_smiles": ["O1C(c2ccccc2)OCCC1(c3ccc(OC)cc3)(C4CCCCC4)","BrBr"],"products_smiles": ["C(Br)CC(c3ccc(OC)cc3)(C4CCCCC4)OC(=O)c1ccccc1"],"conditions": "NBS","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_substitution","intermediate_smiles": "O1C(Br)(c2ccccc2)OC(c3ccc(OC)cc3)(C4CCCCC4)CC1","step_weight": 0,"rationale": "NBS promotes selective benzylic radical formation due to resonance stabilization by the aromatic ring, enabling bromine atom transfer to the benzylic position."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O+]1=C(c2ccccc2)OC(c3ccc(OC)cc3)(C4CCCCC4)CC1","step_weight": 0,"rationale": "The benzylic bromide undergoes elimination as the adjacent oxygen stabilizes the resulting oxocarbenium ion through resonance, facilitating ring opening."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(Br)CC(c3ccc(OC)cc3)(C4CCCCC4)OC(=O)c1ccccc1","step_weight": 0,"rationale": "Bromide ion, a good nucleophile under these conditions, attacks the electrophilic carbonyl carbon, driven by the high electrophilicity of the oxocarbenium-derived ester intermediate."}],"description": "Under NBS conditions, benzylic bromination occurs via a radical pathway, followed by elimination to open the oxocarbenium intermediate. Nucleophilic attack by bromide then forms the bromoester product, driven by benzylic stabilization and good leaving group ability."}
{"reaction_id": "NR-322_1-c2ccccc2_2-c2cnc(C(F)(F)F)cn2_3-c2ccc(F)cc2_4-c2ccc(OC)cc2","level": "easy","name": "Wittig Reaction","reactants_smiles": ["c1ccccc1[P+](c1ccccc1)(c1ccccc1)C([H])(c2ccccc2)c2cnc(C(F)(F)F)cn2","O=C(c2ccc(F)cc2)c2ccc(OC)cc2"],"products_smiles": ["C(=C(c2ccc(F)cc2)c2ccc(OC)cc2)(c2ccccc2)c2cnc(C(F)(F)F)cn2","O=P(c1ccccc1)(c1ccccc1)c1ccccc1"],"conditions": "Strong base (e.g., LDA, nBuLi)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[P+](c1ccccc1)(c1ccccc1)[C-](c2ccccc2)c2cnc(C(F)(F)F)cn2","step_weight": 0,"rationale": "The strong base abstracts the acidic α-proton next to the positively charged phosphorus, stabilized by adjacent phenyl groups through inductive and resonance effects, generating the nucleophilic ylide."},{"step": 2,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "c1ccccc1P1(c2ccccc2)(c2ccccc2)OC(c2ccc(F)cc2)(c2ccc(OC)cc2)C1(c2ccccc2)c2cnc(C(F)(F)F)cn2","step_weight": 0,"rationale": "The nucleophilic ylide carbon attacks the electrophilic carbonyl carbon, while the carbonyl oxygen coordinates to phosphorus, forming a four-membered oxaphosphetane via concerted cycloaddition favored by orbital symmetry."},{"step": 3,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(=C(c2ccc(F)cc2)c2ccc(OC)cc2)(c2ccccc2)c2cnc(C(F)(F)F)cn2","step_weight": 0,"rationale": "The strained oxaphosphetane undergoes cycloreversion, driven by relief of ring strain and formation of strong P=O and C=C bonds, yielding the alkene and triphenylphosphine oxide."}],"description": "A strong base deprotonates the phosphonium salt to form a stabilized ylide, which undergoes [2+2] cycloaddition with the carbonyl to give an oxaphosphetane intermediate. Cycloreversion then yields the alkene and triphenylphosphine oxide as the thermodynamically favored products."}
{"reaction_id": "NR-240_1-C_2-C(=O)OC_3-C(C)C_4-CC_5-Cc1ccc(OC)cc1","level": "medium","name": "Stevens Rearrangement","reactants_smiles": ["CC(=O)C(C(=O)OC)[N+](C(C)C)(CC)Cc1ccc(OC)cc1","[Li]N(C(C)C)C(C)C"],"products_smiles": ["CC(=O)C(C(=O)OC)(Cc1ccc(OC)cc1)N(C(C)C)(CC)"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC([O-])=C(C(=O)OC)[N+](C(C)C)(CC)Cc1ccc(OC)cc1","step_weight": 0,"rationale": "LDA selectively deprotonates the α-carbon due to enhanced acidity from carbonyl resonance and the inductive electron-withdrawing effect of the positively charged nitrogen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "CC(=O)C(C(=O)OC)(Cc1ccc(OC)cc1)N(C(C)C)(CC)","step_weight": 0,"rationale": "The nitrogen ylide rearranges via a [1,2]-shift because migration relieves charge separation and forms a stable tertiary amine, favored by the ability of the migrating group to stabilize developing negative charge."}],"description": "A strong, non-nucleophilic base deprotonates the acidic α-carbon between the carbonyl and quaternary ammonium, forming a nitrogen ylide stabilized by resonance with the carbonyl. This ylide undergoes a [1,2]-alkyl shift, yielding a more stable tertiary amine product."}
